US05736548
A mixture of 3-hydroxybenzaldehyde (3.66 g, 0.03 mol), K2CO3 (12.43 g, 0.09 mol), and CH3CN (100 ml) was stirred at room temperature for 1/2 hour, then N-methyl-2-chloromethylpiperidine hydrochloride (5.49 g, 0.03 mol) was added. The reaction mixture was stirred until the reaction was complete, then the solvent was removed in vacuo and the residue was partitioned between CHCl3 and water. The aqueous layer was extracted with CHCl3 (3×100 ml) and the combined organic layers were concentrated in vacuo to afford 3-(1-methyl-3-hexahydroazepinyloxy)benzaldehyde.

reactant | 3-hydroxybenzaldehyde | 0.03 mol, 3.66 g | OC=1C=C(C=O)C=CC1 | C7H6O2
reactant | K2CO3 | 0.09 mol, 12.43 g | C(=O)([O-])[O-].[K+].[K+]
reactant | N-methyl-2-chloromethylpiperidine hydrochloride | 0.03 mol, 5.49 g | Cl.CN1C(CCCC1)CCl
solvent | CH3CN | 100 ml | CC#N | C2H3N
product | 3-(1-methyl-3-hexahydroazepinyloxy)benzaldehyde | CN1CC(CCCC1)OC=1C=C(C=O)C=CC1 | C14H19NO2
